US08022062B2
N-(2,2-Dimethyl-3-oxo-2,3-dihydro-benzofuran-5-ylmethyl)-2,2,2-trifluoro-acetamide:
Add 2-bromoisobutyryl bromide (1.724 g, 7.5 mmol) to a solution of 2,2,2-trifluoro-N-(4-methoxy-benzyl)-acetamide (1.166 g, 5.0 mmol) in 1,2-dichloroethane (8 mL) at 15° C., then add powdered anhydrous iron(III) chloride (973 mg, 6.0 mmol). Stir the reaction at 15° C. for 3 h and at ambient temperature for 8 days. Add dropwise saturated aqueous potassium sodium tartrate, then water and EtOAc, and stir for 1 h. Filter off the solid, separate the organic layer, and extract the aqueous layer three times with EtOAc. Combine the organic extracts, wash with brine, dry over Na2SO4, filter and concentrate in vacuo. Purify by chromatography on silica gel eluting with EtOAc/hexane (1:3) to give the desired intermediate (253 mg, 17%).

reactant | 2-bromoisobutyryl bromide | 7.5 mmol, 1.724 g | BrC(C(=O)Br)(C)C | C4H6Br2O
reactant | 2,2,2-trifluoro-N-(4-methoxy-benzyl)-acetamide | 5.0 mmol, 1.166 g | FC(C(=O)NCC1=CC=C(C=C1)OC)(F)F | C10H10F3NO2
reactant | potassium sodium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 8 mL | ClCCCl | C2H4Cl2
catalyst | iron(III) chloride | 6.0 mmol, 973 mg | [Fe](Cl)(Cl)Cl
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(2,2-Dimethyl-3-oxo-2,3-dihydro-benzofuran-5-ylmethyl)-2,2,2-trifluoro-acetamide | 253 mg, 17% | CC1(OC2=C(C1=O)C=C(C=C2)CNC(C(F)(F)F)=O)C | C13H12F3NO3
